US07238808B2
A stirred solution of commercially available 5-amino-1H-imidazole-4-carboxamide (25 g, 198 mmol) in methanesulfonic acid (107 mL) and ethanol (400 mL) was stirred at reflux conditions for 12d, evaporated and water (300 mL) was added. While stirring and cooling (ice/water) sodium hydroxide solution (32%) was added until pH=6 was reached. The water layer was saturated with sodium chloride and extracted with ethyl acetate (3×200 mL). The combined organic layers were dried (MgSO4), evaporated and the crude product purified crystallization (ethyl acetate/ethanol) to yield 5-amino-1H-imidazole-4-carboxylic acid ethyl ester (13.7 g, 45%) as a light brown solid. MS (EI) 155.1 [(M)+]; mp 178° C.

reactant | 5-amino-1H-imidazole-4-carboxamide | 198 mmol, 25 g | NC1=C(N=CN1)C(=O)N | C4H6N4O
reactant | ethanol | 400 mL | C(C)O | C2H6O
solvent | methanesulfonic acid | 107 mL | CS(=O)(=O)O | CH4O3S
product | 5-amino-1H-imidazole-4-carboxylic acid ethyl ester | 13.7 g, 45% | C(C)OC(=O)C=1N=CNC1N | C6H9N3O2
